US06995263B2
d] 2-[4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethanol
In analogy to the procedure described in example 1 f], [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-acetic acid methyl ester was reacted with DIBAL-H to give the title compound as yellow solid.

reactant | [4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-acetic acid methyl ester | COC(CC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O | C17H15F3N2O2
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
product | 2-[4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethanol | C1(CC1)C1=NC(=NC=C1CCO)C1=CC=C(C=C1)C(F)(F)F | C16H15F3N2O
